US06051712
A solution of 28.2 g (81.4 mmol) of 4-(3-bromophenyl)-piperidin-4-ol in 600 ml of toluene was treated with 30 g (157 mmol) of p-toluenesulphonic acid monohydrate and heated to reflux on a water separator for 4 hours. Subsequently, the reaction mixture was cooled to room temperature and adjusted to pH 10 with 3 N sodium hydroxide solution. Thereafter, it was firstly extracted three times with 500 ml of methylene chloride. The combined organic phases were washed three times with 200 ml of water each time, dried over magnesium sulphate and then evaporated under reduced pressure. The crude product was purified by chromatography on silica gel with a 1:1 mixture of methylene chloride and hexane as the eluent. There were obtained 9.5 g (36% of theory) of 1-benzyl-4-(3-bromophenyl)-1,2,3,6-tetrahydro-pyridine as a light yellow oil; MS: 327, 329 (M+H)+.

reactant | 4-(3-bromophenyl)-piperidin-4-ol | 81.4 mmol, 28.2 g | BrC=1C=C(C=CC1)C1(CCNCC1)O | C11H14BrNO
reactant | p-toluenesulphonic acid monohydrate | 157 mmol, 30 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
reactant | sodium hydroxide | 3 N | [OH-].[Na+]
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | 1-benzyl-4-(3-bromophenyl)-1,2,3,6-tetrahydro-pyridine | 9.5 g, 36% | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC(=CC=C1)Br | C18H18BrN
